US08193164B2
Step AAI4: N-{(1S,2R,3S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide
(1S,2R,3S,5R)-3-Amino-5-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopentane-1,2-diol trifluoroacetate (9.50 g, 16.42 mmol) and DIPEA (6.36 g, 49.27 mmol) are placed in a flask with dry THF (150 mL). Propionyl chloride (1.52 g, 16.42 mmol) is added dropwise and the reaction mixture is stirred at RT. The reaction is shown to be complete by LCMS after 1 hour. The solvent is removed in vacuo and the residue is partitioned between DCM (250 mL) and water (250 mL). The organic layer is washed with water (200 mL) and brine (200 mL), dried over MgSO4, filtered and the solvent is removed in vacuo. The solid is re-crystallised from 1,2-dichloroethane to give the title compound.

reactant | (1S,2R,3S,5R)-3-Amino-5-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopentane-1,2-diol trifluoroacetate | 16.42 mmol, 9.50 g | FC(C(=O)O)(F)F.N[C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)O)O
reactant | DIPEA | 49.27 mmol, 6.36 g | CCN(C(C)C)C(C)C | C8H19N
reactant | Propionyl chloride | 16.42 mmol, 1.52 g | C(CC)(=O)Cl | C3H5ClO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N-{(1S,2R,3S,4R)-4-[2-Chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29ClN6O3
